US09163042B2
To 4-chloro-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide (4.35 g, 15.50 mmol) in acetonitrile (145.0 mL) was added TMSI (8.8 mL, 62.0 mmol). The reaction was stirred at 50° C. overnight. The acetonitrile was evaporated and the crude solid was triturated with ethyl acetate. The solid was isolated by filtration and washed with ethyl acetate to give 4-chloro-2-fluoro-N-(2-oxo-1H-pyridin-4-yl)benzamide (3.8 g, 92%). ESI-MS m/z calc. 266.02, found 267.1 (M+1)+; Retention time: 1.23 minutes (3 minutes run). 1H NMR (400 MHz, DMSO-d6) δ 10.86 (s, 1H), 7.73 (t, J=8.0 Hz, 1H), 7.68 (dd, J=10.1, 1.9 Hz, 1H), 7.60 (d, J=7.1 Hz, 1H), 7.47 (dd, J=8.3, 2.0 Hz, 1H), 7.11 (d, J=2.0 Hz, 1H), 6.71 (dd, J=7.1, 2.1 Hz, 1H) ppm.

reactant | 4-chloro-2-fluoro-N-(2-methoxy-4-pyridyl)benzamide | 15.50 mmol, 4.35 g | ClC1=CC(=C(C(=O)NC2=CC(=NC=C2)OC)C=C1)F | C13H10ClFN2O2
reactant | TMSI | 62.0 mmol, 8.8 mL | [Si](C)(C)(C)I | C3H9ISi
solvent | acetonitrile | 145.0 mL | C(C)#N | C2H3N
product | 4-chloro-2-fluoro-N-(2-oxo-1H-pyridin-4-yl)benzamide | 3.8 g, 92% | ClC1=CC(=C(C(=O)NC2=CC(NC=C2)=O)C=C1)F | C12H8ClFN2O2
